US03992535
4-Hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid ethyl ester-1,1-dioxide was prepared analogous to Example 1c from 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid ethyl ester-1,1-dioxide and methyl iodide. Yield: 82% of theory; m.p. 163°-165° C.

reactant | 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid ethyl ester-1,1-dioxide | C(C)OC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C15H13NO5S
reactant | methyl iodide | CI | CH3I
product | 4-Hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid ethyl ester-1,1-dioxide | Yield: 82% | C(C)OC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C16H15NO5S
